### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Clique): add erase_of_mem and insert_erase for n-cliques

### PR DESCRIPTION
**Pull request by jt496**
Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -213,13 +213,27 @@ section DecidableEq
...
   constructor
   · push_cast
     exact hs.1.insert fun b hb _ => h _ hb
   · rw [card_insert_of_not_mem fun ha => (h _ ha).ne rfl, hs.2]
 
+lemma IsNClique.erase_of_mem (hs : G.IsNClique n s) (ha : a ∈ s) :
+    G.IsNClique (n - 1) (s.erase a) := by
+  constructor
+  · apply hs.1.subset; simp
+  · rw [card_erase_of_mem ha, hs.2]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:227]: This is a bit more readable if we use the available argument names:
```suggestion
    G.IsNClique (n - 1) (s.erase a) where
  isClique := hs.isClique.subset <| by simp
  card_eq := by rw [card_erase_of_mem ha, hs.2]
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -213,13 +213,27 @@ section DecidableEq
...
+
+lemma IsNClique.insert_erase (hs : G.IsNClique n s) (ha : ∀ w ∈ s, w ≠ b → G.Adj a w) (hb : b ∈ s) :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:229]: Two minor points:

- Let's make this `protected` since there also exists `Finset.insert_erase`
- I think the below spelling of `ha` is slightly preferable
```suggestion
protected lemma IsNClique.insert_erase
    (hs : G.IsNClique n s) (ha : ∀ w ∈ s \ {b}, G.Adj a w) (hb : b ∈ s) :
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -213,13 +213,27 @@ section DecidableEq
...
+    G.IsNClique n (insert a (erase s b)) := by
+  cases n with
+  | zero => exact False.elim <| not_mem_empty _ (isNClique_zero.1 hs ▸ hb)
+  | succ _ =>
+    apply (hs.erase_of_mem hb).insert
+    intro w h; rw [mem_erase] at h
+    exact ha w h.2 h.1
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:236]: Fortunately `aesop` crushes this quickly:
```suggestion
  | succ _ => exact (hs.erase_of_mem hb).insert fun w h ↦ by aesop
  
```
(note that I also include the missing blank line which we conventionally include between lemmas)

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply my suggestions and then feel free to merge.

bors d+

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 3 above)
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Thanks for all the suggestions! I've now applied them all.
